US04298529
7-(2-Methoxyimino-3-oxo-4-bromobutyramido)-3-hydroxycepham-4-carboxylic acid (syn isomer, 2.1 g.) was dissolved in a solution of N,N-dimethylformamide (0.8 ml.) and tetrahydrofuran (7.6 ml). To the solution was added a solution of N,N-dimethylformamide (0.78 ml) and phosphorus oxychloride (0.9 ml) in tetrahydrofuran (0.7 ml) all at once at -5° C., and stirred at the same temperature for 30 minutes and at 22° C. for 30 minutes. The resultant solution was poured into ice water. The precipitates were washed with water (50 ml) and diisopropyl ether (25 ml) and dried over phosphorus pentoxide to give 7-(2-methoxyimino-3-oxo-4-bromobutyramido)-3-cephem-4-carboxylic acid (syn isomer, 1.37 g.). The mother liquid was extracted with ethyl acetate (100 ml.). The extract was washed with water and dried over magnesium sulfate. The solution was concentrated in vacuo and the precipitates were pulverized with diisopropyl ether to give the same objective compound (syn isomer, 0.2 g.). Similar result was obtained by using SOCl2 in stead of POCl3.

reactant | 7-(2-Methoxyimino-3-oxo-4-bromobutyramido)-3-hydroxycepham-4-carboxylic acid | 2.1 g | CON=C(C(=O)NC1[C@@H]2N(C(C(CS2)O)C(=O)O)C1=O)C(CBr)=O | C12H14BrN3O7S
reactant | phosphorus oxychloride | 0.9 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | N,N-dimethylformamide | 0.8 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 7.6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.7 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 0.78 ml | CN(C=O)C | C3H7NO
product | 7-(2-methoxyimino-3-oxo-4-bromobutyramido)-3-cephem-4-carboxylic acid | 1.37 g | CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C(CBr)=O | C12H12BrN3O6S
